US04971982
313 mg of methyl 3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran-6-carboxylate were dissolved in 10 ml of dichloromethane at room temperature and 283 mg of m-chloroperbenzoic acid were added. After stirring at room temperature for 2 hours the mixture was washed with sodium o bisulphite solution and sodium bicarbonate solution. The organic phase was dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using initially 2% (v/v) methanol/ethyl acetate and finally 5% (v/v) methanol/ethyl acetate for the elution. There were obtained 250 mg of 2-[3,4-dihydro-6-(methoxycarbonyl)-2,2-dimethyl-2H-1-benzopyran-4-yl]pyridine N-oxide as an oil which solidified upon trituration with diethyl ether. After recrystallization from toluene the product melted at 128-130° C.

reactant | methyl 3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran-6-carboxylate | 313 mg | CC1(OC2=C(C(C1)C1=NC=CC=C1)C=C(C=C2)C(=O)OC)C | C18H19NO3
reactant | m-chloroperbenzoic acid | 283 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-[3,4-dihydro-6-(methoxycarbonyl)-2,2-dimethyl-2H-1-benzopyran-4-yl]pyridine N-oxide | 250 mg | COC(=O)C=1C=CC2=C(C(CC(O2)(C)C)C2=[N+](C=CC=C2)[O-])C1 | C18H19NO4
